US05302257
The cathode compartment of a divided glass H-cell as described in Example 6.1 is charged with 40 mL of 10% phosphoric acid, and the anode compartment is charged with Na4Fe(CN)6.10H2O (3.9 g, 8.0 mmol), K2CO3 (8.3 g, 60 mmol) and t-BuOH (50 mL)/water (50 mL), the chiral ligand, PHAL-DHQD (878 mg. 0.10 mmol), OsO4 (0.196 M in toluene, 0.05 mL, 0.01 mmol) and α-methylstyrene (2.4 g, 20 mmol). The mixture is electrolyzed at 0.4 V (vs ref. Ag/AgCl) at 15° C. until about 4253 coulombs of electricity is consumed. After stirring without electricity for 4 hours, the reaction is worked up as in Example 6.I to give (R)-2-phenyl-1,2-propanediol (2.87 g, 94.5% yield and 92.6% ee).

reactant | phosphoric acid | 40 mL | P(O)(O)(O)=O | H3O4P
reactant | K2CO3 | 60 mmol, 8.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | t-BuOH | 50 mL | CC(C)(C)O | C4H10O
reactant | α-methylstyrene | 20 mmol, 2.4 g | CC(=C)C1=CC=CC=C1 | C9H10
catalyst | OsO4 | 0.01 mmol, 0.196 M, 0.05 mL | O=[Os](=O)(=O)=O
solvent | water | 50 mL | O | H2O
product | (R)-2-phenyl-1,2-propanediol | 2.87 g, 94.5% yield | C1(=CC=CC=C1)[C@@](CO)(C)O | C9H12O2
